US06706763B1
To 26.6 g of 2-methoxy-5-nitro-N-(4-trifluoromethylbenzyl)benzamide were added 270 ml of ethyl acetate and 2.6 g of 10% palladium on carbon under an atmosphere of argon, then argon was replaced with hydrogen gas, and the mixture was stirred for 8 hours at room temperature under an atmosphere of hydrogen gas. Catalyst was filtered through Celite(Hyflo Super-cel) and, after washed the collected material well with ethyl acetate, the filtrate was concentrated under reduced pressure. The residue obtained was purified by means of column chromatography (silica gel, ethyl acetate) to obtain 24.5 g of 5-amino-2-methoxy-N-(4-trifluoromethylbenzyl)benzamide as colorless crystals.

reactant | 2-methoxy-5-nitro-N-(4-trifluoromethylbenzyl)benzamide | 26.6 g | COC1=C(C(=O)NCC2=CC=C(C=C2)C(F)(F)F)C=C(C=C1)[N+](=O)[O-] | C16H13F3N2O4
reactant | hydrogen | [H][H] | H2
catalyst | palladium on carbon | 2.6 g | [Pd] | Pd
solvent | ethyl acetate | 270 ml | C(C)(=O)OCC | C4H8O2
product | 5-amino-2-methoxy-N-(4-trifluoromethylbenzyl)benzamide | 24.5 g | NC=1C=CC(=C(C(=O)NCC2=CC=C(C=C2)C(F)(F)F)C1)OC | C16H15F3N2O2
